US06579868B1
1-{2-[8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclohexanol
A methanesulfonate (470 mg) prepared from 1-{2-[6-amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclohexanol by a conventional method was dissolved in 25 ml of tetrahydrofuran, 0.44 ml of isoamyl nitrite was added thereto and the mixture was heated under reflux for 1 hour. The reaction solution was concentrated to dryness and purified by a silica gel column (eluting with dichloromethane:methanol=95:5) to give 20 mg of the title compound.

reactant | methanesulfonate | 470 mg | CS(=O)(=O)[O-]
reactant | 1-{2-[6-amino-8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclohexanol | NC1=C2N=C(N(C2=NC(=N1)C#CC1(CCCCC1)O)C)C1=CC(=CC=C1)F | C20H20FN5O
reactant | isoamyl nitrite | 0.44 ml | N(=O)OCCC(C)C | C5H11NO2
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | 1-{2-[8-(3-fluorophenyl)-9-methyl-9H-2-purinyl]-1-ethynyl}-1-cyclohexanol | 20 mg | FC=1C=C(C=CC1)C=1N(C2=NC(=NC=C2N1)C#CC1(CCCCC1)O)C | C20H19FN4O
